US08859591B2
4-(5-chloro-2H-indazol-2-yl)phenol was prepared using a method analogous to that described for Intermediate (Q10), starting from 4-methoxyaniline and 5-chloro-2-nitrobenzaldehyde. Yellow solid. 1HNMR (400 MHz Methanol-d4) δ 8.60 (d, J=1.6 Hz, 1H), 7.71-7.75 (m, 3H), 7.65 (d, J=9.2 Hz, 1H), 727 (dd, J=9.2, 2.0 Hz, 1H), 6.95 (d, J=8.8 Hz, 2H).

reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 5-chloro-2-nitrobenzaldehyde | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
product | 4-(5-chloro-2H-indazol-2-yl)phenol | ClC1=CC2=CN(N=C2C=C1)C1=CC=C(C=C1)O | C13H9ClN2O
